US07897597B2
A solution of 1-[(7-benzyloxy-3-nitroquinolin-4-yl)amino]-2-methylpropan-2-ol (245.0 g, 0.667 mol) in methanol (3 L) was added to a pressure vessel containing 5% platinum on carbon (7.35 g). The vessel was placed under hydrogen pressure (30 psi, 2.1×105 Pa) at 55° C. for five hours. The reaction was allowed to cool to 40° C., and dichloromethane (2.5 L) was added. The reaction mixture was then filtered through CLARCEL filter aid at 30-40° C., and the filter cake was washed with methanol. The filtrate was concentrated to a volume of 1.5 L, cooled to 5-10° C., and stirred for two hours. A solid formed and was isolated by filtration, washed with a small amount of methanol, and dried under vacuum at 50° C. to provide 199.4 g of 1-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}-2-methylpropan-2-ol.

reactant | 1-[(7-benzyloxy-3-nitroquinolin-4-yl)amino]-2-methylpropan-2-ol | 0.667 mol, 245.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCC(C)(O)C | C20H21N3O4
reactant | dichloromethane | 2.5 L | ClCCl | CH2Cl2
solvent | methanol | 3 L | CO | CH4O
catalyst | platinum on carbon | 7.35 g | [Pt] | Pt
product | 1-{[3-amino-7-(benzyloxy)quinolin-4-yl]amino}-2-methylpropan-2-ol | 199.4 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(O)C)OCC1=CC=CC=C1 | C20H23N3O2
